US09163021B2
Ethyl 3-[(Cyclopropylcarbonyl)amino]-4-oxopentanoate
DMAP (5 g, 0.041 mol) and acetic anhydride (306 g, 3 mol) were added to a suspension of 2-[(cyclopropylcarbonyl)amino]-4-ethoxy-4-oxobutanoic acid (Preparation 85, 229 g, 1 mol) in freshly-distilled pyridine (1.5 L). The reaction was heated at 90° C. for 2 hours before concentrating in vacuo at 60° C., azeotroping with toluene. The residue was purified by silica gel column chromatography eluting with 2% methanol in chloroform to afford the title compound (70%) that was taken directly on to the next step.

reactant | acetic anhydride | 3 mol, 306 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-[(cyclopropylcarbonyl)amino]-4-ethoxy-4-oxobutanoic acid | 1 mol, 229 g | C1(CC1)C(=O)NC(C(=O)O)CC(=O)OCC | C10H15NO5
catalyst | DMAP | 0.041 mol, 5 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 1.5 L | N1=CC=CC=C1 | C5H5N
product | Ethyl 3-[(Cyclopropylcarbonyl)amino]-4-oxopentanoate | 70% | C1(CC1)C(=O)NC(CC(=O)OCC)C(C)=O | C11H17NO4
